US04780468
n-Butyl lithium (2.6M in hexanes, 32 mL, 84 mmol) was added over 10 minutes to a solution of diisopropylamine (8.89 g, 88 mmol) in THF (80 mL) stirred under N2 at 0° C. After a further 10 minutes at 0°, the solution was transferred by catheter over 40 minutes to a solution of 2,4,5-trifluorobromobenzene (16.88 g, 80 mmol) in THF (200 mL) stirred under N2 at -78°. After a further 15 minutes the solution was blown through a catheter over ≈2 minutes onto a slurry of CO2 (≈200 mL) in ether (400 mL) with vigorous stirring. When the CO2 evaporated the slurry was washed with dilute HCl (1M, 200 mL) and water (100 mL). The organic phase was extracted with dilute NaOH (0.5M, 2×100 mL). The aqueous phase was washed with ether (100 mL) and made acidic (12N HCl, 9 mL). The aqueous phase was extracted with ether (2×100 mL), and the combined organic phases were washed with water (100 mL), saturated brine (100 mL) and dried (MgSO4) The solvent was removed under reduced pressure to give 3-bromo-2,5,6-trifluorobenzoic acid (17.25 g, 84.5%) as white microcrystalline needles; mp 114°-6° (sublimation). Nmr (CDCl3) δ 10.73 (1H, s, OH), 7.54 (1H, d of t, Jd =6 Hz, Jt =9 Hz aromatic).

reactant | n-Butyl lithium | 84 mmol, 2.6M, 32 mL | C(CCC)[Li]
reactant | diisopropylamine | 88 mmol, 8.89 g | C(C)(C)NC(C)C | C6H15N
reactant | 2,4,5-trifluorobromobenzene | 80 mmol, 16.88 g | FC1=C(C=C(C(=C1)F)F)Br | C6H2BrF3
reactant | CO2 | ≈200 mL | C(=O)=O | CO2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ether | 400 mL | CCOCC | C4H10O
product | 3-bromo-2,5,6-trifluorobenzoic acid | 17.25 g, 84.5% | BrC=1C(=C(C(=O)O)C(=C(C1)F)F)F | C7H2BrF3O2
